US04730003
7,7-Dimethyl-2-trifluoromethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 5, 4.50 g. (0.014 mole) 6-trifluoroacetamido-5-nitro-3,3-dimethylindolin-2-one in 500 ml. ethanol are hydrogenated in the presence of 0.5 g. 10% palladium on charcoal at normal pressure and at ambient temperature. After filtration, the filtrate is evaporated to dryness in a vacuum and the residue is dissolved in dichloromethane/ethyl acetate and treated with active charcoal. After filtration, the filtrate is evaporated to dryness in a vacuum and the residue is recrystallised from ethyl acetate, there being obtained 3.8 g. (95% of theory) of the title compound in the form of the monohydrate; m.p. 175°-177° C.

reactant | 6-trifluoroacetamido-5-nitro-3,3-dimethylindolin-2-one | 0.014 mole | FC(C(=O)NC1=C(C=C2C(C(NC2=C1)=O)(C)C)[N+](=O)[O-])(F)F | C12H10F3N3O4
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 7,7-Dimethyl-2-trifluoromethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C(F)(F)F)C=C21)=O)C | C12H10F3N3O
